US06927228B2
(a) 1-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-3-phenylurea
500 μl (4.6 mmol) of phenyl isocyanate are added dropwise to a solution of 1.2 g (2.3 mmol) of 5-(3′-aminobiphenyl-4-ylmethylene)thiazolidine-2,4-dione prepared as in Example 33(a) and 0.9 ml (6.4 mmol) of triethylamine in 12 ml of dichloromethane. The reaction medium is stirred at room temperature for 2 hours. It is extracted with dichloromethane and washed with water, and the organic phase is separated out after settling of the phases has taken place. The organic phase is evaporated and the residue obtained is washed with dichloromethane and dried. 950 mg (50%) of the expected product are collected.

reactant | phenyl isocyanate | 4.6 mmol, 500 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 5-(3′-aminobiphenyl-4-ylmethylene)thiazolidine-2,4-dione | 2.3 mmol, 1.2 g | NC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C16H12N2O2S
reactant | triethylamine | 6.4 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 1-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-3-phenylurea | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)NC(=O)NC1=CC=CC=C1 | C23H17N3O3S
